US08039480B2
Under argon, 2.0 g of methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride (9.8 mmol) were dissolved in 80 ml of dichloromethane, admixed with 3.2 ml of pyridine (4 eq.) and cooled to approx. 5° C. (ice bath). After 10 min, 6.7 ml (1.3 eq.) of a 20% phosgene solution in toluene were slowly added dropwise. The resulting suspension was stirred with ice bath cooling for 3 h and then concentrated under reduced pressure. The residue thus obtained was taken up in toluene and filtered. After the solvent had been removed under reduced pressure, methyl (S)-4,4-difluoro-2-isocyanatopentanoate was obtained as a brown oil which was used in the subsequent reaction without further purification. Yield: 1.1 g (58% of theory).

reactant | methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride | 9.8 mmol, 2.0 g | Cl.N[C@H](C(=O)OC)CC(C)(F)F
reactant | pyridine | 3.2 ml, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl (S)-4,4-difluoro-2-isocyanatopentanoate | FC(C[C@@H](C(=O)OC)N=C=O)(C)F | C7H9F2NO3
